US07662825B2
a) 2,3-Dichloro-N-(3,5-dibromo-2-pyrazinyl)benzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 3,5-dibromo-2-pyrazinamine (2.9 g) and 2,3-dichloro benzenesulphonyl chloride (2.8 g). Yield 4.4 g.

reactant | 3,5-dibromo-2-pyrazinamine | 2.9 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | 2,3-dichloro benzenesulphonyl chloride | 2.8 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,3-Dichloro-N-(3,5-dibromo-2-pyrazinyl)benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1Br)Br | C10H5Br2Cl2N3O2S
